US04587049
A mixture of 35 g (0.087 mole) of diethyl-[N-(2,4-dimethoxy-benzyl)-N-(chloro-acetyl)-amino-malonate], 15.9 ml (11.4 g, 0.113 mole) of triethylamine and 200 ml of anhydrous benzene is heated to boiling for 8 hours. The mixture is extracted successively with 100 ml of water, 100 ml of diluted hydrochloric acid and 100 ml of water, the benzene phase is dried over anhydrous magnesium sulfate, filtered and the filtrate is evaporated. Thus 28,4 g of diethyl-[1-(2,4-dimethoxy-benzyl)-4-oxo-2,2-azetidine-dicarboxylate] are obtained, yield: 89%. B.p.: 175°-180° C./0.1 Hgmm.

reactant | diethyl-[N-(2,4-dimethoxy-benzyl)-N-(chloro-acetyl)-amino-malonate] | 0.087 mole, 35 g | C(C)C(C(=O)N(CC1=C(C=C(C=C1)OC)OC)C(C(=O)[O-])C(=O)[O-])(Cl)CC
reactant | triethylamine | 0.113 mole, 15.9 ml, 11.4 g | C(C)N(CC)CC | C6H15N
reactant | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | diethyl-[1-(2,4-dimethoxy-benzyl)-4-oxo-2,2-azetidine-dicarboxylate] | 28,4 g, yield: 89% | C(C)OC(=O)C1(N(C(C1)=O)CC1=C(C=C(C=C1)OC)OC)C(=O)OCC | C18H23NO7
